US07384963B2
2′-Methyl-N-(2-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 2-methylbenzylamine using method N. NMR; δH [2H6]—DMSO 9.01,(1H, t), 8.01,(2H, d), 7.90,(1H, dd), 7.77,(1H, d), 7.56-7.51,(3H, m), 7.26,(1H, m), 7.18-7.15,(3H, m), 4.48,(2H, d), 2.56,(3H, s), 2.33,(3H, s), 2.31,(3H, s). LCMS; retention time 3.47 min, MH+ 398.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 2-methylbenzylamine | CC1=C(CN)C=CC=C1 | C8H11N
product | 2′-Methyl-N-(2-methylbenzyl)-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=C(C=CC=C1)C | C25H23N3O2
